US07064215B2
A mixture of 1,4-bisbenzyl-2-(chloromethyl)piperazine (1 equivalent) and dimethylamine (5 equivalents) in ethanol, was heated at 150° C. for 36 hours in a sealed high pressure vessel. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was taken up in 1 N HCl, and the solution was washed with CH2Cl2. The water phase was made basic with a 30% aqueous NaOH solution (pH=12) and extracted with CH2Cl2. The organic extracts were collected and dried over Na2SO4. Evaporation of the solvent under reduced pressure afforded {[1,4-bisbenzylpiperazin-2-yl]methyl}dimethylamine. LC/MS (m/z): 324.3 (MH+), Rt 1.76 minutes.

reactant | 1,4-bisbenzyl-2-(chloromethyl)piperazine | 1 equivalent | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CCl | C19H23ClN2
reactant | dimethylamine | 5 equivalents | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | {[1,4-bisbenzylpiperazin-2-yl]methyl}dimethylamine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CN(C)C | C21H29N3
